US09056859B2
A mixture of (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde (3.5 g, 20 mmol), Boc-piperazine (3.5 g, 20 mmol) and anhydrous MgSO4(20 g, 166 mmol) in 100 mL of anhydrous DCM were stirred at room temperature over night. The solid was filtered and the solvent was evaporated at reduced pressured to get the crude product. The crude product was purified via column chromatograph to afford tert-butyl 4-[(E)-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethenyl]piperazine-1-carboxylate. 1H-NMR (400 MHz, CDCl3) δ ppm 7.74 (d, J=8.2 Hz, 1H), 7.29˜7.34 (m, 2H), 6.88 (d, J=13 Hz, 1H), 5.55 (d, J=14 Hz, 1H), 5.25 (s, 2H), 3.49˜3.58 (m, 4H), 3.12˜3.17 (m, 4H), 1.50 (s, 9H).

reactant | (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | 20 mmol, 3.5 g | O=C1OCC2=C1C=CC(=C2)CC=O | C10H8O3
reactant | Boc-piperazine | 20 mmol, 3.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | MgSO4 | 166 mmol, 20 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[(E)-2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethenyl]piperazine-1-carboxylate | O=C1OCC2=C1C=CC(=C2)/C=C/N2CCN(CC2)C(=O)OC(C)(C)C | C19H24N2O4
